US04732899
Preparation of 2-cyclopropylamino-4,6-bis-isobutoxycarbonylamino-s-triazine
16.4 g (0.12 mol) of isobutyl chloroformate are added dropwise to a mixture of 8.3 g (0.05 mol) of 2,4-diamino-6-cyclopropylamino-s-triazine, 0.5 g of 4-dimethylaminopyridine and 125 ml of pyridine. The batch is stirred for 1 hour at room temperature and then for 1 hour at 55°-60° C. After the precipitate has been filtered off, the reaction mixture is concentrated by evaporation in a water-jet vacuum, the residue is taken up in 150 ml of chloroform and extracted with 100 ml of water. After drying over sodium sulfate, the solvent is distilled off, and the crude product is purified by column chromatography through silica with methylene chloride as eluant.

reactant | isobutyl chloroformate | 0.12 mol, 16.4 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2,4-diamino-6-cyclopropylamino-s-triazine | 0.05 mol, 8.3 g | NC1=NC(=NC(=N1)N)NC1CC1 | C6H10N6
catalyst | 4-dimethylaminopyridine | 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 125 ml | N1=CC=CC=C1 | C5H5N
product | 2-cyclopropylamino-4,6-bis-isobutoxycarbonylamino-s-triazine | C1(CC1)NC1=NC(=NC(=N1)NC(=O)OCC(C)C)NC(=O)OCC(C)C | C16H26N6O4
